US08211908B2
To a solution of 0.62 g of 2,6-dichloro-3-fluoro-5-((methoxymethoxy)methyl)pyridine in 18 mL of N,N-dimethylformamide, 0.54 mL of triethylamine, 0.15 mL of formic acid and 0.15 g of tetrakis(triphenylphosphine)palladium(0) were added, and the mixture was stirred at 90 to 100° C. for 4 hours 30 minutes under a nitrogen atmosphere. Thereto were added water and ethyl acetate, the insoluble substance was filtered off, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed sequentially with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of hexane:ethyl acetate=8:1 to obtain 0.39 g of 2-chloro-5-fluoro-3-((methoxymethoxy)methyl)pyridine as a colorless oily substance.

reactant | 2,6-dichloro-3-fluoro-5-((methoxymethoxy)methyl)pyridine | 0.62 g | ClC1=NC(=C(C=C1F)COCOC)Cl | C8H8Cl2FNO2
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.54 mL | C(C)N(CC)CC | C6H15N
solvent | formic acid | 0.15 mL | C(=O)O | CH2O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-5-fluoro-3-((methoxymethoxy)methyl)pyridine | 0.39 g | ClC1=NC=C(C=C1COCOC)F | C8H9ClFNO2
